US07834002B2
2,6-Bis(chloromethyl)pyridine (352 mg) was suspended in 4 mL of ethanol, and 372 mg of N-(t-butoxycarbonyl)piperazine was added into the suspension at ice temperature, and then the suspension was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, the residue was added to water and extracted with chloroform. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and the solvent was removed. The residue was purified by chromatography on silica gel (methylene chloride-ethanol=30:1) to give 250 mg of t-butyl 4-(6-chloromethylpyridin-2-ylmethyl)piperazine-1-carboxylate as a colorless oil.

reactant | 2,6-Bis(chloromethyl)pyridine | 352 mg | ClCC1=NC(=CC=C1)CCl | C7H7Cl2N
reactant | N-(t-butoxycarbonyl)piperazine | 372 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | t-butyl 4-(6-chloromethylpyridin-2-ylmethyl)piperazine-1-carboxylate | 250 mg | ClCC1=CC=CC(=N1)CN1CCN(CC1)C(=O)OC(C)(C)C | C16H24ClN3O2
